US08053436B1
3-Phenyl-9H-carbazole
To a solution of 3-bromo-9H-carbazole (0.4 g, 1.6 mmol) in DMF:H2O (15 mL:2 mL) are added tetrakis(triphenylphosphine)-palladium (0.184 g, 0.1 eq), potassium carbonate (0.66 g, 3 eq) and phenyl boronic acid (0.58 g, 3 eq). The resulting mixture is stirred at 80° C. for 4 hr. After cooling to rt, DCM (10 mL) is added and the reaction mixture is quenched with brine. After extraction, drying over MgSO4 and concentration in vacuo, the residue is purified via flash chromatography using PetEther:EtOAc 10:1 as eluting solvent to give the title compound (0.35 g, 1.44 mmol) as a white powder in a 90% yield. M.p.: 221° C.

reactant | 3-bromo-9H-carbazole | 1.6 mmol, 0.4 g | BrC=1C=CC=2NC3=CC=CC=C3C2C1 | C12H8BrN
reactant | H2O | 15 mL | O | H2O
reactant | potassium carbonate | 0.66 g, 3 eq | C([O-])([O-])=O.[K+].[K+]
reactant | phenyl boronic acid | 0.58 g, 3 eq | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)-palladium | 0.184 g, 0.1 eq | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-Phenyl-9H-carbazole | 1.44 mmol, 0.35 g, 90% yield | C1(=CC=CC=C1)C=1C=CC=2NC3=CC=CC=C3C2C1 | C18H13N
